US07851493B2
3-{4-[4-(3-Benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-fluoro-phenyl}-4H-[1,2,4]oxadiazol-5-one
To a stirred suspension of 0.62 g of 4-[4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-fluoro-N-hydroxy-benzamidine in 17 mL of dichloromethane at 0° C., under argon, were added 0.23 mL of pyridine and 154 μL of phenyl chloroformate. The reaction mixture was stirred for 10 min at 0° C. followed by 1 h at room temperature. The reaction mixture was concentrated under reduced pressure and the resulting residue was taken up into 10 mL of acetonitrile under argon and 0.165 mL of 1,4-diazabicyclo[5.4.0]undec-7-ene (DBU) was added. The reaction mixture was stirred at room temperature overnight then warmed to 40° C. for 2 h. The reaction mixture was concentrated under reduced pressure. The residue was taken up into dichloromethane and a 1M aqueous solution of NaH2PO4 was added. The aqueous layer was separated and extracted three times with dichloromethane. The combined organic layers were washed with water, dried over magnesium sulfate, filtered and concentrated under reduced pressure to give 770 mg of crude product as a yellow powder. Purification by column chromatography on silica gel (heptane 1/ethyl acetate 1) gave 150 mg followed by column washing with 100% MeOH gave 320 mg of the title compound. In total, 470 mg of 3-{4-[4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-fluoro-phenyl}-4H-[1,2,4]oxadiazol-5-one as white powder was obtained.

reactant | 4-[4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-fluoro-N-hydroxy-benzamidine | 0.62 g | C(C1=CC=CC=C1)OCCCC=1N=C(SC1COC1=CC(=C(C(=N)NO)C=C1)F)C1=CC=C(C=C1)C(F)(F)F | C28H25F4N3O3S
reactant | pyridine | 0.23 mL | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 154 μL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dichloromethane | 17 mL | ClCCl | CH2Cl2
product | 3-{4-[4-(3-Benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-fluoro-phenyl}-4H-[1,2,4]oxadiazol-5-one | 320 mg | C(C1=CC=CC=C1)OCCCC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)F)C1=CC=C(C=C1)C(F)(F)F | C29H23F4N3O4S
